US08957070B2
Benzyl 2-amino-3-(1,3-thiazol-2-ylethynyl)benzoate
A solution of benzyl 2-amino-3-ethynylbenzoate (3.06 g), 2-bromothiazole (1.65 mL), bis(triphenylphosphine)palladium(II) dichloride (0.704 g) and copper iodide (0.232 g) in triethylamine (60 mL) was stirred under a nitrogen atmosphere at 60° C. for 1.5 hr with heating. The reaction mixture was diluted with ethyl acetate and filtered through celite. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=10:90-50:50) to give the title compound (3.32 g, yield 82%) as a yellow oil.

reactant | benzyl 2-amino-3-ethynylbenzoate | 3.06 g | NC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1C#C | C16H13NO2
reactant | 2-bromothiazole | 1.65 mL | BrC=1SC=CN1 | C3H2BrNS
solvent | triethylamine | 60 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.704 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.232 g | [Cu](I)I
product | Benzyl 2-amino-3-(1,3-thiazol-2-ylethynyl)benzoate | 3.32 g, yield 82% | NC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1C#CC=1SC=CN1 | C19H14N2O2S
